US06417399B1
1. (2S 3S)-2-bromo-3-methyl valeric acid
To a cooled (0° C.) solution of L-Isoleucine (66 g) dissolved in HBr (6N, 500 ml) was added dropwise a solution of sodium nitrite (35 g in 100 ml water). The reaction was stirred overnight at room temperature and then extracted with EtOAc (3×150 ml). The combined organic extracts washed with 10% sodium bisulfit solution, water, saturated brine, dried over MgSO4, filtered and concentrated. The product a yellowish oil (53.9 g) was obtained in 55% yield. (The product can be purified by distillation and crystallization from PE). (see FIG. 6)

reactant | L-Isoleucine | 66 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | sodium nitrite | 100 ml, 35 g | N(=O)[O-].[Na+]
reactant | HBr | 6N, 500 ml | Br | BrH
product | (2S 3S)-2-bromo-3-methyl valeric acid | 53.9 g, 55% yield | Br[C@H](C(=O)O)[C@H](CC)C | C6H11BrO2
